US04716168
A. N-(2-Amino-4-nitrophenyl)-2-furamide
To a stirred solution of 4-nitro-o-phenylene diamine (76.5 g, 0.5 mole) in 500 ml of pyridine, is added dropwise 2-furoyl chloride (65 g, 0.5 mole). After the addition is complete the reaction solution is stirred at room temperature for 15 minutes and then at reflux for 2 hr. The hot reaction solution is poured into 6 liters of water to give an oil, which solidifies upon standing overnight at room temperature to give 125 g (100 percent) of yellow intermediate. The solid is used in part B without further purification.

reactant | 4-nitro-o-phenylene diamine | 0.5 mole, 76.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | 2-furoyl chloride | 0.5 mole, 65 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | water | 6 liters | O | H2O
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-Amino-4-nitrophenyl)-2-furamide | 125 g, 100 percent | NC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)C=1OC=CC1 | C11H9N3O4
